US05998433
After 3.055 g (8.403 mmol) of 1-benzyl-3-(2-tert-butyldimethylsiloxy-1-hydroxyethyl)-4-piperidinone was dissolved in 100 ml of methanol, 10 ml of concentrated hydrochloric acid was added, followed by stirring at room temperature for 10 minutes. The solvent was distilled off under reduced pressure with heating. The resulting residue was dissolved in water. After this solution was alkalified with aqueous sodium hydroxide, it was extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1 to 6/1) to yield 5-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine.

reactant | 1-benzyl-3-(2-tert-butyldimethylsiloxy-1-hydroxyethyl)-4-piperidinone | 8.403 mmol, 3.055 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(CO[Si](C)(C)C(C)(C)C)O | C20H33NO3Si
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 5-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(CC1)OC=C2 | C14H15NO
